US07786132B2
(iv) 1-(2-Aminoethyl)-1H-benzo[d]imidazol-2(3H)-one
tert-Butyl 2-(2-oxo-2,3-dihydrobenzo[d]imidazol-1-yl)ethylcarbamate (200 mg) was added to 15 mL of hydrogen chloride solution in diethyl ether (1 M) and the mixture was stirred at rt for 5 h. Evaporation of the solvent give the title compound as a white hydrochloride salt (100%).

reactant | tert-Butyl 2-(2-oxo-2,3-dihydrobenzo[d]imidazol-1-yl)ethylcarbamate | 200 mg | O=C1NC2=C(N1CCNC(OC(C)(C)C)=O)C=CC=C2 | C14H19N3O3
reactant | hydrogen chloride | 15 mL | Cl | ClH
solvent | diethyl ether | 1 M | C(C)OCC | C4H10O
product | 1-(2-Aminoethyl)-1H-benzo[d]imidazol-2(3H)-one | NCCN1C(NC2=C1C=CC=C2)=O | C9H11N3O
